US08937083B2
A solution of N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-methyl-3-(methylthio)propanamide (0.150 g, 0.483 mmol) in N,N-dimethylformamide (2.413 ml) was cooled to 0° C. Sodium hydride (0.039 g, 0.965 mmol, 60% dispersion) was added at and the reaction was stirred at 0° C. for 30 minutes. (2-Bromoethoxy)(tert-butyl)dimethylsilane (0.231 g, 0.965 mmol) was added, the ice bath was removed, and the reaction was stirred at room temperature for 2 hours. The reaction was heated at 65° C. for 1.5 hours and then cooled to room temperature. Brine was added and the mixture was extracted with dichloromethane. The combined organic phases were concentrated and chromatographed (0-100% ethyl acetate/hexanes) to give N-(2-((tert-butyldimethylsilyl)oxy)ethyl)-N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-methyl-3-(methylthio)propanamide (0.120 g, 0.243 mmol, 50.4%) as an orange oil: IR (thin film) 1669 cm−1; 1H NMR (400 MHz, CDCl3) δ 8.88 (d, J=2.5 Hz, 1H), 8.55 (dd, J=4.7, 1.4 Hz, 1H), 8.05 (s, 1H), 7.98 (ddd, J=8.3, 2.6, 1.4 Hz, 1H), 7.41 (ddd, J=8.4, 4.8, 0.5 Hz, 1H), 4.35-3.06 (m, 4H), 2.86-2.73 (m, 1H), 2.73-2.59 (m, 1H), 2.41 (dd, J=12.8, 5.7 Hz, 1H), 1.94 (s, 3H), 1.11 (d, J=6.7 Hz, 3H), 0.80 (s, 9H), 0.00 (s, 3H), −0.01 (s, 3H); ESIMS m/z 470 ([M+H]+).

reactant | N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-methyl-3-(methylthio)propanamide | 0.483 mmol, 0.150 g | ClC1=NN(C=C1NC(C(CSC)C)=O)C=1C=NC=CC1 | C13H15ClN4OS
reactant | Sodium hydride | 0.965 mmol, 0.039 g | [H-].[Na+]
reactant | (2-Bromoethoxy)(tert-butyl)dimethylsilane | 0.965 mmol, 0.231 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | N,N-dimethylformamide | 2.413 ml | CN(C=O)C | C3H7NO
product | N-(2-((tert-butyldimethylsilyl)oxy)ethyl)-N-(3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-yl)-2-methyl-3-(methylthio)propanamide | 0.243 mmol, 0.120 g, 50.4% | [Si](C)(C)(C(C)(C)C)OCCN(C(C(CSC)C)=O)C=1C(=NN(C1)C=1C=NC=CC1)Cl | C21H33ClN4O2SSi
